US08455491B2
Compound No. 6: 2-{4-[2-(4-fluorophenyl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazin-6-yl]piperazin-1-yl}ethanol
The mixture of 0.26 g (0.8 mmol) of 6-chloro-2-(4-fluorophenyl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine and 0.425 g (3.2 mmol) of 2-hydroxyethylpiperazine in 4 ml of pentanol is heated in a sealed tube at 130° C. for 32 hours.

reactant | 6-chloro-2-(4-fluorophenyl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazine | 0.8 mmol, 0.26 g | ClC=1C=CC=2N(N1)C(=C(N2)C2=CC=C(C=C2)F)C2=CN=NC=C2 | C16H9ClFN5
reactant | 2-hydroxyethylpiperazine | 3.2 mmol, 0.425 g | OCCN1CCNCC1 | C6H14N2O
solvent | pentanol | 4 ml | C(CCCC)O | C5H12O
product | 2-{4-[2-(4-fluorophenyl)-3-(pyridazin-4-yl)imidazo[1,2-b]pyridazin-6-yl]piperazin-1-yl}ethanol | FC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)N2CCN(CC2)CCO)C1C1=CN=NC=C1 | C22H22FN7O
